US07211586B2
(a) 3-(1,2,3,4-Tetrahydroisoquinolin-6-yl)-butanoic acid ethyl ester hydrochloride
A solution of 3-(isoquinolin-6-yl)-but-2-enoic acid ethyl ester {0.5 g, Reference Example 3(a)} in ethanol (30 mL) was treated with concentrated hydrochloric acid (1.7 mL). This stirred solution was flushed with nitrogen then treated with platinum oxide (0.07 g) and then hydrogenated in the presence of hydrogen at 2 bar for 19 hours. The reaction mixture was filtered through Hyflo supercel and the filter pad was washed three times with ethanol (20 mL). The combined filtrate plus washings were evaporated to give the title compound as a pale green solid. MS (ES)=248 (M+H)+.

reactant | 3-(isoquinolin-6-yl)-but-2-enoic acid ethyl ester | 0.5 g | C(C)OC(C=C(C)C=1C=C2C=CN=CC2=CC1)=O | C15H15NO2
reactant | hydrochloric acid | 1.7 mL | Cl | ClH
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | 3-(1,2,3,4-Tetrahydroisoquinolin-6-yl)-butanoic acid ethyl ester hydrochloride | Cl.C(C)OC(CC(C)C=1C=C2CCNCC2=CC1)=O | InChI=1S/C15H21NO2.ClH/c1-3-18-15(17)8-11(2)12-4-5-14-10-16-7-6-13(14)9-12;/h4-5,9,11,16H,3,6-8,10H2,1-2H3;1H
